US09212173B2
To a mixture of 5-bromo-2-chloro-N-methylpyrimidin-4-amine (0.201 g, 0.903 mmol) and 1,5-dimethyl-1H-pyrazol-4-amine (0.12 g, 1.08 mmol) in 2-methoxyethanol (2 mL) was added TFA (0.070 mL, 0.9 mmol). The reaction was stirred in a sealed tube at 100° C. for 90 minutes. The resulting precipitate was collected by filtration. The isolated solid was further purified by reverse phase HPLC to give 5-bromo-N2-(1,5-dimethyl-1H-pyrazol-4-yl)-N4-methylpyrimidine-2,4-diamine (46 mg, 17%). LCMS (Method A): [MH+]=297.0 at 2.57 min. 1H-NMR (DMSO): δ 8.28 (s, 1H), 7.84 (s, 1H), 7.49 (s, 1H), 6.79 (d, J=3.4, 1H), 3.67 (s, 3H), 2.82 (d, J=3.6, 3H), 2.14 (s, 3H). Ki=0.017 μM.

reactant | 5-bromo-2-chloro-N-methylpyrimidin-4-amine | 0.903 mmol, 0.201 g | BrC=1C(=NC(=NC1)Cl)NC | C5H5BrClN3
reactant | 1,5-dimethyl-1H-pyrazol-4-amine | 1.08 mmol, 0.12 g | CN1N=CC(=C1C)N | C5H9N3
reactant | TFA | 0.9 mmol, 0.070 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | 5-bromo-N2-(1,5-dimethyl-1H-pyrazol-4-yl)-N4-methylpyrimidine-2,4-diamine | 46 mg, 17% | BrC=1C(=NC(=NC1)NC=1C=NN(C1C)C)NC | C10H13BrN6
